### PR TITLE
[Merged by Bors] - feat (RingTheory/HahnSeries/Multiplication): module structure on HahnModule

### PR DESCRIPTION
**Pull request by ScottCarnahan**
We add some theorems and instances for Hahn Modules, in particular, a `HahnSeries Γ R`-module structure on `HahnModule Γ R V` for `R` a semiring and `V` an `R`-module.  Some HahnSeries Mul results are reduced to the corresponding SMul results.

---

- [ ] depends on: #11979  [OrderedVAdd]
- [ ] depends on: #12996  [leadingCoeff]
- [ ] depends on: #13421 [SMulZeroClass]
- [ ] depends on: #14479 [vAddAntidiagonal]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 1]
```diff
@@ -195,6 +195,28 @@ theorem smul_coeff {r : R} {x : HahnSeries Γ V} {a : Γ} : (r • x).coeff a =
   rfl
 #align hahn_series.smul_coeff HahnSeries.smul_coeff
 
+instance : SMulZeroClass R (HahnSeries Γ V) :=
+  { inferInstanceAs (SMul R (HahnSeries Γ V)) with
+    smul_zero := by
+      intro
+      ext
+      simp only [smul_coeff, zero_coeff, smul_zero]}
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:203]:
```suggestion
      simp only [smul_coeff, zero_coeff, smul_zero] }
```

File: Mathlib/RingTheory/HahnSeries/Multiplication.lean [hunk 2]
```diff
@@ -161,18 +173,132 @@ theorem smul_coeff_left [SMulWithZero R W] {x : HahnSeries Γ R}
...
+    contrapose!
+    intro h
+    rw [h.1, h.2, add_zero]
+
+instance instDistribSMul [MonoidWithZero R] [DistribSMul R V] : DistribSMul (HahnSeries Γ R)
+    (HahnModule Γ R V) where
+  smul_add := smul_add
+
+theorem add_smul [AddCommMonoid R] [SMulWithZero R V] {x y : HahnSeries Γ R}
+    {z : HahnModule Γ R V} (h : ∀(r s : R) (u : V), (r + s) • u = r • u + s • u) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Multiplication.lean:203]:
```suggestion
    {z : HahnModule Γ R V} (h : ∀ (r s : R) (u : V), (r + s) • u = r • u + s • u) :
```

File: Mathlib/RingTheory/HahnSeries/Multiplication.lean [hunk 3]
```diff
@@ -387,14 +470,55 @@ instance [CommRing R] : CommRing (HahnSeries Γ R) :=
...
+    refine' ⟨x.order + ((of R).symm y).order, _⟩
+    rw [smul_coeff_order_add_order x y, of_symm_zero, HahnSeries.zero_coeff, smul_eq_zero]
+    simp [HahnSeries.coeff_order_ne_zero, hxy]
+    exact HahnSeries.coeff_order_ne_zero hxy.2
+
+end HahnModule
+
+namespace HahnSeries
+
+-- Is this proof too abusive?
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Multiplication.lean:515]:
```suggestion
```
Looks fine to me.

File: Mathlib/RingTheory/HahnSeries/Multiplication.lean [hunk 4]
```diff
@@ -387,14 +470,55 @@ instance [CommRing R] : CommRing (HahnSeries Γ R) :=
...
+instance instModule [Semiring R] [Module R V] : Module (HahnSeries Γ R)
+    (HahnModule Γ R V) := {
+  inferInstanceAs (DistribSMul (HahnSeries Γ R) (HahnModule Γ R V)) with
+  mul_smul := fun x y z => mul_smul' x y z
+  one_smul := fun x => @one_smul' Γ R _ V _ _ _ x
+  add_smul := fun _ _ _ => add_smul Module.add_smul
+  zero_smul := fun _ => zero_smul'
+  }
+
+instance HahnModule.instNoZeroSMulDivisors {Γ} [LinearOrderedCancelAddCommMonoid Γ] [Zero R]
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Multiplication.lean:499]:
```suggestion
instance instNoZeroSMulDivisors {Γ} [LinearOrderedCancelAddCommMonoid Γ] [Zero R]
```
You are already in the namespace.

File: Mathlib/RingTheory/HahnSeries/Multiplication.lean [hunk 5]
```diff
@@ -181,73 +307,37 @@ theorem mul_coeff [NonUnitalNonAssocSemiring R] {x y : HahnSeries Γ R} {a : Γ}
...
-      · intro b
-        simp only [add_coeff, Ne.def, Set.mem_union, Set.mem_setOf_eq, mem_support]
-        contrapose!
-        intro h
-        rw [h.1, h.2, add_zero] }
+      simp only [← smul_eq_mul]
+      refine HahnModule.add_smul ?_
+      simp only [smul_eq_mul]
+      exact add_mul
+  }
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Multiplication.lean:335]:
```suggestion
      exact add_mul }
```

**Comment by ScottCarnahan** [comment]
@alreadydone suggested marking the definition of `of` reducible.  I tried it, and it had the following effects:
1. all `@[simp]` lemmas with `of` in the statement made the simpNF linter angry - it wanted me to switch to `Equiv.refl`.
2. some proofs using `simp` broke, and as I was fixing them, I felt like simp was pushing me away from the goals every time I tried to use it.

Is there some way to fix this behavior?

File: Mathlib/Algebra/Order/AddTorsor.lean [hunk 6]
```diff
@@ -16,7 +16,6 @@ series.  In the multiplicative case, a standard example is the action of non-neg
 an ordered field.
 
 ## Implementation notes
-
 * Beause these classes mix the algebra and order hierarchies, we write them as `Prop`-valued mixins.
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/AddTorsor.lean:19]:
```suggestion
* Because these classes mix the algebra and order hierarchies, we write them as `Prop`-valued mixins.
```

**Comment by jcommelin** [comment]
I spotted a typo just outside your diff. If you don't mind, please fix it as part of this PR.

Otherwise, LGTM

bors d+
